US07960552B2
To a solution of methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (67 mg, 0.12 mmol) in 2:1 tetrahydrofuran:methanol (1.5 mL) was added 1 N sodium hydroxide (0.18 mL, 0.18 mmol). The solution was heated in a microwave reactor at 120° C. for 500 seconds. The solution was concentrated and water was added followed by 1 N hydrochloric acid (0.18 mL, 0.18 mmol). Ethyl acetate was added. The layers were separated and the aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine and concentrated to afford of 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid as a solid (51 mg, 78%). 1H-NMR (400 MHz, DMSO-d6) δ 13.38 (br s, 1H), 8.52 (d, J=8 Hz, 1H), 8.27 (s, 1H), 8.15-8.08 (m, 3H), 7.73 (d, J=9 Hz, 2H), 7.62-7.51 (m, 3H), 6.92 (d, J=9 Hz, 2H), 4.84 (s, 2H), 4.07-3.94 (m, 1H), 2.43-2.33 (m, 4H), 2.11-2.03 (m, 1H), 1.94-1.90 (m, 1H). HRMS (ESI) C30H22Cl2N2O4 calculated: 545.1029 (M+H)+, found: 545.1026 (M+H)+.

reactant | methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.12 mmol, 67 mg | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C31H24Cl2N2O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.18 mmol, 1 N, 0.18 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.18 mmol, 1 N, 0.18 mL | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
product | 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 51 mg, 78% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O | C30H22Cl2N2O4
